US04666936
Preparation of 2-[4-(p-chlorobenzamido)-benzyl]-butyric acid ethyl ester (compound 4).
A solution of ethyl-2-(p-aminobenzyl)-butyrate (3.3 g) and triethylamine (1.5 g) in anhydrous THF (70 ml) is slowly (10 minutes) addioned with a solution of p-chlorobenzoylchloride (2.6 g) in 30 ml of anhydrous THF. It is stirred for an hour at room temperature, then filtered and the solution as obtained is vacuum evaporated. The obtained solid residue is crystallized from methanol providing 4 g amide with m.p. 119°-120° C. Analysis:

reactant | ethyl-2-(p-aminobenzyl)-butyrate | 3.3 g | C(C)OC(C(CC)CC1=CC=C(C=C1)N)=O | C13H19NO2
reactant | triethylamine | 1.5 g | C(C)N(CC)CC | C6H15N
reactant | p-chlorobenzoylchloride | 2.6 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 2-[4-(p-chlorobenzamido)-benzyl]-butyric acid ethyl ester | C(C)OC(C(CC)CC1=CC=C(C=C1)NC(C1=CC=C(C=C1)Cl)=O)=O | C20H22ClNO3
